data/polar.json
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[C:1]1(=[O:3])[CH:14]=[CH:9][C:13](=[N+:18]([O-:11])[O-:12])[CH:10]=[CH:15]1.[CH:2](=[O+:17][CH3:16])[c:19]1[cH:7][cH:5][cH:4][cH:6][cH:8]1>>[c:1]1([O:3][CH:2]([O:17][CH3:16])[c:19]2[cH:7][cH:5][cH:4][cH:6][cH:8]2)[cH:14][cH:9][c:13]([N+:18](=[O:11])[O-:12])[cH:10][cH:15]1", "epd": [["LP-/Pi+", [11], [18, 11]], ["Pi-/Pi+", [13, 18], [9, 13]], ["Pi-/Pi+", [14, 9], [1, 14]], ["Pi-/Sigma+", [3, 1], [3, 2]], ["Pi-/LP+", [2, 17], [17]]]}
{"reaction_name": "β-Silyl elimination", "rsmi": "[CH2:1]([CH:2]([Si:3]([CH3:6])([CH3:7])[CH3:8])[CH3:5])[OH:4].[F-:9]>>[CH2:1]=[CH:2][CH3:5].[OH-:4].[Si:3]([CH3:6])([CH3:7])([CH3:8])[F:9]", "epd": [["Sigma-/Pi+", [2, 3], [1, 2]], ["LP-/Sigma+", [9], [3, 9]], ["Sigma-/LP+", [1, 4], [4]]]}
{"reaction_name": "Yamaguchi esterification", "rsmi": "[O:1]=[C:10]([CH3:2])[O:3][C:5]([c:4]1[cH:8][cH:12][cH:11][cH:13][cH:9]1)=[O:7].[O:6]([CH3:14])[H:15]>>[O:1]=[C:10]([CH3:2])[O:6][CH3:14].[O:3]([C:5]([c:4]1[cH:8][cH:12][cH:11][cH:13][cH:9]1)=[O:7])[H:15]", "epd": [["LP-/Sigma+", [6], [6, 10]], ["Pi-/LP+", [1, 10], [1]], ["LP-/Pi+", [1], [1, 10]], ["Sigma-/LP+", [3, 10], [3]], ["LP-/Sigma+", [3], [3, 15]], ["Sigma-/LP+", [6, 15], [6]]]}
{"reaction_name": "Koser reagent oxidation", "rsmi": "[CH3:1][S:2][CH3:3].[c:5]1([I:4]([O:11][H:12])[O:13][S:14](=[O:15])(=[O:16])[c:17]2[cH:18][cH:19][c:20]([CH3:21])[cH:22][cH:23]2)[cH:6][cH:7][cH:8][cH:9][cH:10]1>>[CH3:1][S:2]([CH3:3])=[O:11].[c:5]1([I:4])[cH:6][cH:7][cH:8][cH:9][cH:10]1.[O:13]([H:12])[S:14](=[O:15])(=[O:16])[c:17]1[cH:18][cH:19][c:20]([CH3:21])[cH:22][cH:23]1", "epd": [["LP-/Sigma+", [2], [2, 11]], ["Sigma-/LP+", [4, 11], [4]], ["Sigma-/Pi+", [11, 12], [2, 11]], ["Sigma-/Sigma+", [4, 13], [12, 13]]]}
{"reaction_name": "Houben–Hoesch acylation", "rsmi": "[OH:1][c:2]1[c:3]([H:11])[cH:4][cH:5][cH:6][cH:7]1.[CH3:8][C+:9]=[O:10]>>[OH:1][c:2]1[c:3]([C:9](=[O:10])[CH3:8])[cH:4][cH:5][cH:6][cH:7]1.[H+:11]", "epd": [["Sigma-/Sigma+", [3, 11], [3, 9]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:2]([C:14](=[O:15])[c:19]1[cH:6][cH:25][c:16]([N:24]([CH3:20])[CH3:21])[cH:26][cH:7]1)=[S:27]([CH3:9])[CH3:10].[N+:1]([c:11]1[cH:3][n:8][c:13]2[c:17]([n+:5]([O-:4])[o:12][n:28]2)[cH:18]1)(=[O:22])[O-:23]>>[N+:1](=[C:11]1[CH:3]=[N:8][c:13]2[c:17]([n+:5]([O-:4])[o:12][n:28]2)[CH:18]1[CH:2]([C:14](=[O:15])[c:19]1[cH:6][cH:25][c:16]([N:24]([CH3:20])[CH3:21])[cH:26][cH:7]1)[S+:27]([CH3:9])[CH3:10])([O-:22])[O-:23]", "epd": [["Pi-/Sigma+", [2, 27], [2, 18]], ["Pi-/Pi+", [18, 11], [11, 1]], ["Pi-/LP+", [1, 22], [22]]]}
{"reaction_name": "Conjugate addition to an electron-poor quinone", "rsmi": "[C:4]1([Cl:25])=[C:5]([Cl:26])[C:10](=[O:12])[C:15]([C:29]#[N:31])=[C:16]([C:30]#[N:32])[C:9]1=[O:11].[cH:1]1[cH:13][cH:23][c:6]([S:33](=[O:7])(=[O:8])[CH:17]=[C:27]2[CH:2]=[CH:20][C:28](=[N+:22]([O-:18])[O-:19])[CH:21]=[CH:3]2)[cH:24][cH:14]1>>[cH:1]1[cH:13][cH:23][c:6]([S:33](=[O:7])(=[O:8])[CH:17]([C:15]2([C:29]#[N:31])[C:10](=[O:12])[C:5]([Cl:26])=[C:4]([Cl:25])[C:9]([O-:11])=[C:16]2[C:30]#[N:32])[c:27]2[cH:2][cH:20][c:28]([N+:22](=[O:18])[O-:19])[cH:21][cH:3]2)[cH:24][cH:14]1", "epd": [["LP-/Pi+", [18], [22, 18]], ["Pi-/Pi+", [28, 22], [21, 28]], ["Pi-/Pi+", [3, 21], [27, 3]], ["Pi-/Sigma+", [17, 27], [17, 15]], ["Pi-/Pi+", [15, 16], [16, 9]], ["Pi-/LP+", [9, 11], [11]]]}
{"reaction_name": "Electrophilic fluorination", "rsmi": "[CH3:5][C:11](=[C:6]=[N-:14])[c:15]1[cH:17][cH:20][cH:28][cH:21][cH:18]1.[O:1]=[S:23](=[O:2])([N:19]([F:16])[S:22](=[O:3])(=[O:4])[c:29]1[cH:7][cH:24][cH:12][cH:27][cH:10]1)[c:30]1[cH:8][cH:25][cH:13][cH:26][cH:9]1>>[CH3:5][C:11]([C:6]#[N:14])([c:15]1[cH:17][cH:20][cH:28][cH:21][cH:18]1)[F:16].[O:1]=[S:23](=[O:2])([N-:19][S:22](=[O:3])(=[O:4])[c:29]1[cH:7][cH:24][cH:12][cH:27][cH:10]1)[c:30]1[cH:8][cH:25][cH:13][cH:26][cH:9]1", "epd": [["LP-/Pi+", [14], [6, 14]], ["Pi-/Sigma+", [11, 6], [11, 16]], ["Sigma-/LP+", [16, 19], [19]]]}
{"reaction_name": "Shi epoxidation", "rsmi": "[CH2:3]=[CH:4][CH3:8].[O:1]1[O:2][C:7]1([CH3:5])[CH3:6]>>[O:1]=[C:7]([CH3:5])[CH3:6].[O:2]1[CH2:3][CH:4]1[CH3:8]", "epd": [["Sigma-/Sigma+", [2, 7], [2, 4]], ["Pi-/Sigma+", [3, 4], [2, 3]], ["Sigma-/Pi+", [1, 2], [1, 7]]]}
